US07335658B2
1-(2-FLUOROPHENYL)-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA
Following the procedure of Example 5, making variations only as required to use 2-flurophenylisocyanate in place of (2-isocyanatocyclopropyl)benzene to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone, the title compound was obtained as a white solid (32% yield). 1H NMR (500 MHz, CDCl3) δ 7.90-8.30, 7.99, 7.75, 7.63, 7.57, 7.34, 7.10-7.17, 7.01-7.07, 3.94-4.01, 3.85-3.92, 3.56-3.66, 3.41-3.49, 3.24-3.29.

reactant | 2-flurophenylisocyanate | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | 1-(2-FLUOROPHENYL)-3-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]-PYRIDAZIN-3-YL}UREA | FC1=C(C=CC=C1)NC(=O)NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C23H20F4N6O2
